US06458952B1
EX-1A) A solution of 1-benzyl-5-nitro-2,4(1H,3H) pyrimidinedione (6.14 g, 24.82 mmol) prepared as described by Vampa, G. and Pecorari P. Boll. Chim. Farm. 1987, 126, 467-469 was dissolved in 100 mL dimethylsulfoxide and potassium dicarbonate (3.78 g, 27.34 mmol) was added in one portion with stirring. After approximately 10 minutes a solution of methyl bromoacetate (2.50 mL, 26.40 mmol) in 20 mL dimethylsulfoxide was added drop wise over a 10 minute period. The reaction mixture was then heated to 40° C. and allowed to stir for 18 hours. The reaction mixture was diluted with water (500 mL). The aqueous solution was extracted with ethyl acetate (4×100 mL). The combined organic solutions were washed with water (1×150 mL), brine (2×150 mL). The organic solution was dried (MgSO4), filtered, and concentrated to give an oil. The crude oil was purified by MPLC (20% ethyl acetate/hexanes) to give pure 1-Benzyl-3-methoxycarbonyl -methyl-5-nitro-2,4(1H,3H)pyrimidinedione (EX-1A) as a white solid in 81% yield: 1H NMR (400 MHz, CDCl3) δ8.73 (s, 1H) 7.38-7.30 (m, 5H), 5.06 (s, 2H), 4.69 (s, 2H), 3.72 (s, 3H); HRMS (ES) calcd for C14H13N3O6 319.0804, found 319.0797.

reactant | 1-benzyl-5-nitro-2,4(1H,3H) pyrimidinedione | 24.82 mmol, 6.14 g | C(C1=CC=CC=C1)N1C(NC(C(=C1)[N+](=O)[O-])=O)=O | C11H9N3O4
reactant | potassium dicarbonate | 27.34 mmol, 3.78 g | C(=O)([O-])OC(=O)[O-].[K+].[K+]
reactant | methyl bromoacetate | 26.40 mmol, 2.50 mL | BrCC(=O)OC | C3H5BrO2
solvent | dimethylsulfoxide | 100 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | water | 500 mL | O | H2O
product | 1-Benzyl-3-methoxycarbonyl -methyl-5-nitro-2,4(1H,3H)pyrimidinedione | 81% yield | C(C1=CC=CC=C1)N1C(N(C(C(=C1C)[N+](=O)[O-])=O)C(=O)OC)=O | C14H13N3O6
